US07423149B2
To a suspension of 0.104 g (0.33 mmol) of N-(4-chloro-phenyl)-6-methoxy -naphthalene-2-carboxamidine in 5 mL of dichloromethane was added 1.5 mL (1 M, 1.5 mmol) of BBr3 in dichloromethane at 0° C. It was warmed to room temperature overnight, poured into 125 mL of saturated NaHCO3 and extracted with three 50 mL portions of ethyl acetate. The combined organic extracts were washed with 125 mL of brine, dried over Na2SO4, filtered and concentrated. The residue was purified by preparative TLC eluting with 50% ethyl acetate in hexanes plus 1% NH4OH to give 0.014 g of N-(4-chloro-phenyl)-6-hydroxy-naphthalene-2-carboxamidine.

reactant | N-(4-chloro-phenyl)-6-methoxy -naphthalene-2-carboxamidine | 0.33 mmol, 0.104 g | ClC1=CC=C(C=C1)NC(=N)C1=CC2=CC=C(C=C2C=C1)OC | C18H15ClN2O
reactant | BBr3 | 1.5 mmol, 1.5 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 125 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(4-chloro-phenyl)-6-hydroxy-naphthalene-2-carboxamidine | 0.014 g | ClC1=CC=C(C=C1)NC(=N)C1=CC2=CC=C(C=C2C=C1)O | C17H13ClN2O
